US05409943
(b) N-(3-(2-Methylbenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride
A mixture of 2-amino-3-(2-methylbenzyloxy)pyridine (5.2 g, 24.2 mmol) and ethyl phenylacetimidate hydrochloride (5.32 g, 26.7 mmol) in ethanol (80 ml) was heated under reflux for 2 hours. Evaporation of the solvent gave an oil which was taken up in chloroform, filtered to remove an insoluble white solid, and purified by flash chromatography (chloroform/methanol) to obtain the product (0.85 g), m.p. 175°-178° C.

reactant | 2-amino-3-(2-methylbenzyloxy)pyridine | 24.2 mmol, 5.2 g | NC1=NC=CC=C1OCC1=C(C=CC=C1)C | C13H14N2O
reactant | ethyl phenylacetimidate hydrochloride | 26.7 mmol, 5.32 g | Cl.C1(=CC=CC=C1)CC(OCC)=N
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-(2-Methylbenzyloxy)-2-pyridyl)phenylacetamidine hydrochloride | 0.85 g | Cl.CC1=C(COC=2C(=NC=CC2)NC(CC2=CC=CC=C2)=N)C=CC=C1 | InChI=1S/C21H21N3O.ClH/c1-16-8-5-6-11-18(16)15-25-19-12-7-13-23-21(19)24-20(22)14-17-9-3-2-4-10-17;/h2-13H,14-15H2,1H3,(H2,22,23,24);1H
